US06589970B2
Sodium borohydride (131 mg, 3.47 mmol) was added under nitrogen to a warm solution of (5-bromo-6-methoxy-naphthalen-2-ylmethylene)-methyl-amine (950 mg, 4.41 mmol), prepared in the previous step, in 30 mL of absolute ethanol. After the addition the reaction was stirred at room temperature for 19 h (overnight). 1 N HCl was added dropwise until the reaction was pH˜1 (litmus paper). The solvent was removed under reduced pressure and the residue partitioned between methylene chloride and water. The aqueous layer was made basic by the addition of 1 N NaOH. The organic layer was separated and the aqueous layer was extracted three times with methylene chloride. The combined extracts were dried (MgSO4) and the solvent removed under reduced pressure to give (5-bromo-6-methoxy-naphthalen-2-ylmethyl)-methyl-amine (900 mg, 94%) as an off-white solid, mp 41-45° C.

reactant | Sodium borohydride | 3.47 mmol, 131 mg | [BH4-].[Na+]
reactant | (5-bromo-6-methoxy-naphthalen-2-ylmethylene)-methyl-amine | 4.41 mmol, 950 mg | BrC1=C2C=CC(=CC2=CC=C1OC)C=NC | C13H12BrNO
reactant | HCl | 1 N | Cl | ClH
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | (5-bromo-6-methoxy-naphthalen-2-ylmethyl)-methyl-amine | 900 mg, 94% | BrC1=C2C=CC(=CC2=CC=C1OC)CNC | C13H14BrNO
